US08703742B2
7-Ethoxy-6-fluoro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
To a cooled solution of sodium hydroxide (80 mg, 2.0 mmol) in water (3.0 mL), nitromethane (244.0 mg, 4.0 mmol) was added at 0° C. and stirred for 10 min. Then 3-ethoxy-4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (588.0 mg, 2.0 mmol) in THF (5.0 mL) was added. The reaction mixture was stirred at for 1 h at 0° C. and for 2 h at room temperature. The reaction mixture was acidified with 2.5 M HCl (1.0 mL) and the product was extracted with ethyl acetate (2×20 mL). The organic extracts were combined and washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and product was chromatographed on a column of silica gel(CH2Cl2:MeOH=95:5) to give the title compound as a solid (350 mg, 69%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 7.40 (dd, J=11.3, 8.2 Hz, 1H), 7.16 (dd, J=8.0, 3.3 Hz, 1H), 5.74 (d, J=9.0 Hz, 1H), 5.30 (dd, J=13.5, 2.2 Hz, 1H), 4.62 (dd, J=13.5, 9.2 Hz, 1H), 4.35 (q, J=6.8 Hz, 2H), 1.28 (t, J=6.8 Hz, 3H); MS (ESI) m/z=254 (M−1, negative).

reactant | sodium hydroxide | 2.0 mmol, 80 mg | [OH-].[Na+]
reactant | nitromethane | 4.0 mmol, 244.0 mg | [N+](=O)([O-])C | CH3NO2
reactant | 3-ethoxy-4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 2.0 mmol, 588.0 mg | C(C)OC=1C(=C(C=O)C=CC1F)B1OC(C(O1)(C)C)(C)C | C15H20BFO4
reactant | HCl | 2.5 M, 1.0 mL | Cl | ClH
solvent | water | 3.0 mL | O | H2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 7-Ethoxy-6-fluoro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | 350 mg, 69% | C(C)OC1=C(C=CC2=C1B(OC2C[N+](=O)[O-])O)F | C10H11BFNO5
